US08455477B2
The oxime isomer mixture of 6-bromo-4-methoxypyrazolo[1,5-a]pyridine-3-carbaldehyde oxime (85.0 mg, 0.315 mmol) was suspended in acetic anhydride (3.0 ml, 31.8 mmol) and heated to 50° C. for 3 h to give a pale blue solution. The solution was then heated to 75° C. for 2 h to give a dark blue solution. The solution was then heated to 100° C. overnight to give a dark purple mixture. The reaction mixture was concentrated and the residue was diluted in ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate and brine then dried over sodium sulfate, filtered and concentrated. The residue was purified by column chromatography on silica gel (ethyl acetate/isohexane gradient) to give 6-bromo-4-methoxypyrazolo[1,5-a]pyridine-3-carbonitrile.

reactant | 6-bromo-4-methoxypyrazolo[1,5-a]pyridine-3-carbaldehyde oxime | 0.315 mmol, 85.0 mg | BrC=1C=C(C=2N(C1)N=CC2C=NO)OC | C9H8BrN3O2
reactant | acetic anhydride | 31.8 mmol, 3.0 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 6-bromo-4-methoxypyrazolo[1,5-a]pyridine-3-carbonitrile | BrC=1C=C(C=2N(C1)N=CC2C#N)OC | C9H6BrN3O
